US08053438B2
Sodium tetrahydroborate (157 mg, 4.16 mmol) was added to a suspension of 3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enone (600 mg, 1.387 mmol) in MeOH (20 ml) at RT. The mixture was stirred at RT for 1 h, and was then cooled in an ice-water bath. Saturated aqueous ammonium chloride (5 ml) was added along with distilled water (100 ml). The resulting mixture was extracted with EtOAc (2×100 ml), and the combined organic layers were washed with brine and dried over sodium sulfate. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (30% to 60% EtOAc in hexanes) afforded (rac)-3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enol as a white solid. MS (ESI, pos. ion) m/z: 435.0 (M+1). IC50 (uM) +++++.

reactant | Sodium tetrahydroborate | 4.16 mmol, 157 mg | [BH4-].[Na+]
reactant | 3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enone | 1.387 mmol, 600 mg | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(OC=1C(=NC=CN1)C1=CC(CCC1)=O)C=C2)F | C23H17FN4O2S
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | water | 100 ml | O | H2O
solvent | MeOH | 20 ml | CO | CH4O
product | (rac)-3-(3-(4-(benzo[d]thiazol-2-ylamino)-3-fluorophenoxy)pyrazin-2-yl)cyclohex-2-enol | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(OC=1C(=NC=CN1)C1=CC(CCC1)O)C=C2)F | C23H19FN4O2S
